US06121309
2-Cyano-8-isopropylnaphthalene
2-Cyano-8-isopropenylnaphthalene (0.23 g) and 10% palladium/carbon (containing 50% of water) (50 mg) were suspended in 20 ml of ethanol and the resulting suspension was subjected to catalytic hydrogenation at ordinary temperature under normal pressure for one hour. The reaction mixture was filtered through Celite, and the filtrate was concentrated to giveacrudeproduct. This crude product was purified by silica gel column chromatography to give 0.20 g of the title compound as an oil.

reactant | 2-Cyano-8-isopropenylnaphthalene | 0.23 g | C(#N)C1=CC2=C(C=CC=C2C=C1)C(=C)C | C14H11N
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 50 mg | [Pd] | Pd
product | 2-Cyano-8-isopropylnaphthalene | 0.20 g | C(#N)C1=CC2=C(C=CC=C2C=C1)C(C)C | C14H13N
